* Z:\home\manuel\facu\4to\tc2\ejercicio semanal 14\Draft1.asc
R1_div N001 Vs1 8k1
R2_div Vs1 0 1k
XU1 N002 Vs2 Vo opamp Aol=100K GBW=10Meg
R1 N002 Vs1 600k
R2 Vo N002 1Meg
R3 Vs2 N003 1Meg
V1 N001 0 -5
R4 Vo 0 1Meg
V2 N003 0 PULSE(-0.55 1.5 0 1 0 0 1m 20)
R5 Vs2 0 1Meg
.include opamp.sub
.tran 1
.backanno
.end
